US08217066B2
Step 2: 2-[5-(4-Bromo-phenyl)-3-methyl-isoxazol-4-yl]-ethanol:
To [5-(4-bromo-phenyl)-3-methyl-isoxazol-4-yl]-acetic acid ethyl ester (1.37 mmol) in THF (3 mL) at 0° C. was added lithium aluminum hydride (0.060 g, 1.47 mmol). The reaction was stirred at room temperature for 1 hour. The mixture was diluted with EtOAc and 1 N aqueous HCl, and the aqueous layer was extracted with EtOAc. The combined organic layers were washed with brine, dried over MgSO4, filtered and concentrated to give the title compound.

reactant | [5-(4-bromo-phenyl)-3-methyl-isoxazol-4-yl]-acetic acid ethyl ester | 1.37 mmol | C(C)OC(CC=1C(=NOC1C1=CC=C(C=C1)Br)C)=O | C14H14BrNO3
reactant | lithium aluminum hydride | 1.47 mmol, 0.060 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | HCl | 1 N | Cl | ClH
product | 2-[5-(4-Bromo-phenyl)-3-methyl-isoxazol-4-yl]-ethanol | BrC1=CC=C(C=C1)C1=C(C(=NO1)C)CCO | C12H12BrNO2
